US04100294
A magnetically stirred suspension of 3.4 g. (0.01 M) of 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)-benzofuran-2-carboxylic acid and 100 ml. water is cooled to 5° C. in an icewater bath. A solution of 0.8 g. (0.0148 M) potassium borohydride and 20 ml. water is added dropwise to the above suspension over one-half hour. The resulting solution is stirred 2 hours at 25° C., filtered to remove some cloudiness and acidified with 6N HCl to give 6,7-dichloro-2,3-dihydro-5-[hydroxy-(2-thienyl)methyl]benzofuran-2-carboxylic acid as a yellow gum. The product is purified by precipitating it from 2N NaOH with 6N HCl. The aqueous solution is decanted from the gum which is triturated with 6N HCl to give a pale yellow solid. This solid is washed with water and air dried. It is then dried 24 hours at 25° C. and lmm Hg over P2O5.

reactant | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)-benzofuran-2-carboxylic acid | 0.01 M | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O4S
reactant | potassium borohydride | 0.0148 M | [BH4-].[K+]
solvent | water | O | H2O
product | 6,7-dichloro-2,3-dihydro-5-[hydroxy-(2-thienyl)methyl]benzofuran-2-carboxylic acid | ClC1=C(C2=C(CC(O2)C(=O)O)C=C1C(C=1SC=CC1)O)Cl | C14H10Cl2O4S
